US08202885B2
BB1.1 [3-(2-Amino-4,5-dimethoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester
To a solution of 0.95 g 4-(benzyloxycarbonyl-methyl-amino)-butyric acid in 20 mL THF were added 3.3 mL of DIPEA, 0.61 g of HOBt and 0.86 g EDC. After stirring for 5 min 1.0 g of 4,5-dimethoxy-benzene-1,2-diamine dihydrochloride was added and the mixture was stirred at rt overnight. Saturated aq. NaHCO3 solution was added, the phases were separated and the organic phase was washed with brine. The combined organic phases were dried over MgSO4, and concentrated in vacuo.

reactant | 4-(benzyloxycarbonyl-methyl-amino)-butyric acid | 0.95 g | C(C1=CC=CC=C1)OC(=O)N(CCCC(=O)O)C | C13H17NO4
reactant | DIPEA | 3.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.61 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4,5-dimethoxy-benzene-1,2-diamine dihydrochloride | 1.0 g | Cl.Cl.COC=1C=C(C(=CC1OC)N)N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EDC | 0.86 g
product | [3-(2-Amino-4,5-dimethoxy-phenylcarbamoyl)-propyl]-methyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C)CCCC(NC1=C(C=C(C(=C1)OC)OC)N)=O)=O | C21H27N3O5
